US05109012
5-Chloro-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methyl-1H-pyrazole-4-carboxaldehyde (1.2 g) and sodium azide (0.3 g) were heated at 70° under a nitrogen atmosphere in dimethyl sulphoxide (15 ml) for 8 hours. The solvent was removed in vacuo and the residue redissolved in methanol (20 ml) containing piperidine (1 ml). This mixture was cooled to 15° while hydrogen sulphide gas was bubbled in slowly for 3 hours. The mixture was worked up to give 5-amino-1-(2,6-dichloro- 4-trifluoromethylphenyl)-3-methyl-1H-pyrazole-4-carboxaldehyde, m.p. 169°-172°.

reactant | 5-Chloro-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methyl-1H-pyrazole-4-carboxaldehyde | 1.2 g | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)C=O | C12H6Cl3F3N2O
reactant | sodium azide | 0.3 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 5-amino-1-(2,6-dichloro- 4-trifluoromethylphenyl)-3-methyl-1H-pyrazole-4-carboxaldehyde | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)C=O | C12H8Cl2F3N3O
